US20010018525A1
(5′-Butoxy-[1,1′;3′,1″]terphenyl-2′-yloxy)acetic acid
The title compound was prepared as an off white solid (0.167 g, 85%) from (5′-butoxy-[ [1,1′;3′,1″]terphenyl-2′-yloxy)acetic acid methyl ester using a procedure similar to step 2 of Example 36, mp 92-94° C.; 1H NMR (DMSO-d6) δ0.92 (t, J=7.5 Hz, 3H), 1.38-1.49 (m, 2H), 1.65-1.74 (m, 2H), 3.64 (s, 2H), 4.02 (t, J=6.6 Hz, 2H), 6.87 (s, 2H), 7.33-7.39 (m, 2H), 7.39-7.44 (m, 4H), 7.57-7.61 (m, 4H), 12.30-12.55 (bs, 1H); IR (KBr) 3420, 3060, 2930, 2860, 2770, 2590, 1725, 1590, 1570, 1460, 1420, 1360, 1260, 1235, 1215, 1195, 1075, 1050, 1010, 925, 760, 750, 700, and 620 cm−1; mass spectrum [(+) ESI], m/z 394 (M+NH4)+; Anal. Calcd. for C24H24O4: C, 76.57; H, 6.43; N, 0.00, Found: C, 76.33; H, 6.55; N, −0.04.

reactant | 5′-butoxy-[ [1,1′;3′,1″]terphenyl-2′-yloxy)acetic acid methyl ester | COC(COC1=C(C=C(C=C1C1=CC=CC=C1)OCCCC)C1=CC=CC=C1)=O | C25H26O4
reactant | KBr | [K+].[Br-]
product | (5′-Butoxy-[1,1′;3′,1″]terphenyl-2′-yloxy)acetic acid | C(CCC)OC=1C=C(C(=C(C1)C1=CC=CC=C1)OCC(=O)O)C1=CC=CC=C1 | C24H24O4
